US09403801B2
Step 3) 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl) pyrimidine-2,4-diamine
To a solution of tert-butyl 8-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate (290 mg, 0.66 mmol) in DCM (10 mL) was added a solution of HCl in EtOAc (10 mL, 40 mmol) and the reaction mixture was stirred at rt overnight and then concentrated in vacuo. The residue was dissolved in water (30 mL) and adjusted to pH=10 with a saturated Na2CO3 aqueous solution, then extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4, then filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/5) to give the title compound as a beige solid (210 mg, 93.2%).

reactant | tert-butyl 8-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 0.66 mmol, 290 mg | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C23H35N7O2
reactant | HCl | Cl | ClH
reactant | EtOAc | 40 mmol, 10 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl) pyrimidine-2,4-diamine | 210 mg, 93.2% | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCNC2)CC1 | C18H27N7
